US05283248
6-Benzylamino-2-benzyloxy-5-cyclopropyl-7,9-difluoro-8-(4-methylpiperazin-1-yl)-1,2,3,5-tetrahydro-pyrimido[1,6-a]benzimidazole-1,3-dione(0.57 g, 0.97 mmol), dissolved in ethanol (115 ml) and concentrated acetic acid (15 ml), is hydrogenated over 5% Pd/C (150 mg). At the end of the reaction, the catalyst is filtered off, and the solution is evaporated. The residue is dissolved in water (10 ml) and the pH adjusted to 7-8 with saturated aqueous sodium bicarbonate solution. The resulting crystals are collected by filtration, washed with water (10 ml) and dried, affording 0.32 g of 9-amino-5-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-2-hydroxy-pyrimido[1,6-a]benzimidazole-1,3-(2H, 5H)-dione as colorless crystals (80%): mp>250° C. (dec); NMR (DMSO-d6): 0.97 (m,2H), 1.14 (m,2H), 2.22 (s,3H), 2.43 (m,4H), 3.13 (m,5H), 5.30 (s,1H), 6.25 (s,2H), 10.80 (broad, 1H).

reactant | 6-Benzylamino-2-benzyloxy-5-cyclopropyl-7,9-difluoro-8-(4-methylpiperazin-1-yl)-1,2,3,5-tetrahydro-pyrimido[1,6-a]benzimidazole-1,3-dione | 0.97 mmol, 0.57 g | C(C1=CC=CC=C1)NC1=C(C(=C(C=2N3C(N(C21)C2CC2)=CC(N(C3=O)OCC3=CC=CC=C3)=O)F)N3CCN(CC3)C)F | C32H32F2N6O3
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 115 ml | C(C)O | C2H6O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 9-amino-5-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-2-hydroxy-pyrimido[1,6-a]benzimidazole-1,3-(2H, 5H)-dione | 0.32 g, 80% | NC1=C(C(=C(C2=C1N1C(N2C2CC2)=CC(N(C1=O)O)=O)F)N1CCN(CC1)C)F | C18H20F2N6O3
